* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt LTC6563 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21
B12 2 PowOK I= uplim(dnlim(400n*V(3,2)-143n,0,10n)+dnlim(10n*V(3,2),0,10n),1u,10n)
C50 PowOK 2 1p Rpar=1Meg noiseless
C52 1 2 5p
C53 3 2 5p Rpar=3k noiseless
D10 1 2 Dleak1
B16 3 2 I=uplim(5m*MAX(V(3,2)+0.7,0)**1.5,28.5m,1m)-27.8m*v(PWRMD_OUT,2)*v(HiZ,2)-14.8m*v(PWRMD_OUT,2)*v(_HiZ,2)+3.5m*v(_PWRMD_OUT,2)*v(HiZ,2)
D6 3 2 Dleak0
G14 2 MID1BUF MID1 2 1
R12 MID1BUF 2 10 noiseless
D8 MID1BUF MID1DECAY DSAT
C44 MID1DECAY 2 2f Rpar=100k noiseless
S1 MID1DECAY N009 2 Sat SSAT2
C45 GainLoss 2 1p Rpar=1k noiseless
B23 2 GainLoss0 I=1m*uplim(dnlim(250m*(.1*dnlim(V(MID1BUF,2),V(MID1DECAY,2),.1)-111m),0,10m),700m,10m)
G1 2 GainLoss GainLoss0 2 1.4m
I1 N009 2 200m
C51 N009 2 10p Rpar=10 noiseless
B28 2 GainlossM1 I=3u*dnlim(V(GainLoss0,GainLoss),0,100u)
C55 mid_out 2 3f Rpar=1k noiseless
S3 2 GainLoss0 2 MID1 SGLLin
B19 2 Sat I=1m*dnlim(V(MID1,2)-100m,0,10m)
C4 Sat 2 2.5p Rpar=1k noiseless
I2 2 N008 200m
C43 N008 2 10p Rpar=10 noiseless
S4 N008 MID1DECAY 2 Sat SSAT1
C42 GainLoss0 2 100f Rpar=1k noiseless
R11 OutPreBuf 2 1Meg noiseless
C1 GainlossM1 2 0 Rpar=2Meg noiseless
B3 2 GainlossM0 I=1m*dnlim(V(GainLoss0,GainLoss),0,100u)
C41 GainlossM0 2 100f Rpar=1k noiseless
G15 2 N004 mid_out 2 100m
R7 N004 2 100 noiseless
C54 N004 SlimSensA 1p
R8 SlimSensA 2 100 noiseless
C57 slewfac 2 1p Rpar=1k noiseless
B18 2 slewfac I=3m+2m*tanh((V(mid1,2)-1)/400m)
B17 2 mid_out I=(v(_TILT0,2)*dnlim(5m*uplim(.1*dnlim(V(MID1BUF,2),V(MID1DECAY,2),.1)-dnlim(.95*(.1*dnlim(V(MID1BUF,2),V(MID1DECAY,2),.1)-470m),0,20m),470m,30m)*(.5+.5*tanh((100-V(SlimSensA,2))/1)),-200u,10u))+ (v(TILT0,2)*dnlim(5m*uplim(.1*dnlim(V(MID1BUF,2),V(MID1DECAY,2),.1)-0*dnlim(.95*(.1*dnlim(V(MID1BUF,2),V(MID1DECAY,2),.1)-940m),0,20m),940m,30m)*(.5+.5*tanh((100-V(SlimSensA,2))/1)),-200u,10u))
S2 GainlossM1 2 2 mid_out SGLKILL
G19 2 OutPreBuf PowOK 2 0.717445µ
B5 2 OutPreBuf I=(.5+.5*tanh((V(_Hiz)-.5)/100m ))*1u*uplim(0.759*V(mid_out),2.3,1u)
D15 GainlossM0 GainlossM1 DGLSPD
B_DC+TILT_OUTBAR 1 N019 I=((20m*uplim(v(14,2)/1.15,1, 1n))/v(vlogic,2))*V(_outcm,2)
B_DC+TILT_OUT 1 N020 I=((-20m*uplim(v(14,2)/1.15,1,1n))/v(vlogic,2))*V(_outcm,2)
B_AC_OUTBAR 1 N019 I=(((((v(OutPreBuf,2)-0.7)*-20m)+27.999m)/v(vlogic,2))-1k*V(y,2))*(V(_outcm,2))
B_AC_OUT 1 N020 I=(((((v(OutPreBuf,2)-0.7)*20m)+28.001m)/v(vlogic,2)) +1e3*V(x,2))*(V(_outcm,2))
B26 centertap 2 I=(V(20x,2)+V(21x,2))/50+50*(uplim(((V(18x,2)+V(19x,2))/2)-V(15,2),0.01e-3,0.1e-6)-50*uplim((V(18x,centertap)+V(19x,centertap))/2,0.1e-6,1e-6)+50*dnlim(((V(18x,2)+V(19x,2))/2)-2.3,0.1e-6,0.1e-6))*V(_PWRMD_OUT,2)-1e-9+10e-3*V(gg,2)
R21 8 2 6.6k noiseless
R15 21x centertap 50
R16 centertap 20x 50
B27 1 2 I=-9.2393m*v(HiZ,2)
G11 2 mid_out GainlossM1 2 2m
C28 centertap 2 1f Rpar=1k
D9 N020 2 DCLMP
D11 N019 2 DCLMP
A33 18x 2 2 2 2 _OBCLMP OBCLMP 2 SCHMITT vt=2.28 vh=1m trise=10n
A35 19x 2 2 2 2 _OCLMP OCLMP 2 SCHMITT vt=2.31 vh=1m trise=10n
A36 OBCLMP 2 2 2 OCLMP N010 COMPCLMP 2 OR
B33 gg 2 i=1*V(centertap,2)*V(COMPCLMP,2)
R29 gg 2 1
C62 gg 2 1µ
C2 MID1 2 1f Rpar=1k noiseless
B§CLAMP1 y 2 I=(1p*dnlim(2*V(15,2)-V(17,2)-V(19x,2),1n,1n)-1p*dnlim(V(19x, 17),1n,1n))*V(HIGood,2)
R2 y 2 1G noiseless
B§CLAMP2 x 2 I=(1p*dnlim(V(18x,17),1n,1n)-1p*dnlim(2*V(15,2)-V(17,2)-V(18x,2),1n,1n))*V(HIGood,2)
R3 x 2 1G noiseless
R1 20 20x 1e-6
R4 21 21x 1e-6
R5 14 2 22.7k
A1 14 2 2 2 2 _TILT0 TILT0 2 SCHMITT vt=1.15 vh=350m trise=5n
C3 17 2 1.5p Rpar=13.6k noiseless
C5 15 2 1.5p Rpar=16.3k noiseless
I3 2 15 55.21µ
A2 HIEff 15 2 2 2 _HIGood HIGood 2 SCHMITT vt=-1u trise=10n
A3 17 15 2 2 2 _HILimit HILimit 2 SCHMITT vt=0.45 trise=1n
B§HIEff1 2 HIEff I=1m*(V(17)+(V(15)+0.9-V(17))*V(HILimit))
R6 HIEff 2 1k
I4 2 17 132.35µ
C6 12 2 1.5p Rpar=218k noiseless
C7 11 2 1.5p Rpar=218k noiseless
A4 12 2 2 2 2 _Adj0_o Adj0_o 2 SCHMITT vt=1.15 vh=350m
A5 11 2 2 2 2 _Adj1_o Adj1_o 2 SCHMITT vt=1.15 vh=350m
C8 16 2 1.5p
R9 3 16 208k
A6 2 16 2 2 2 _PWRMD_OUT PWRMD_OUT 2 SCHMITT vt=-1.15 vh=-350m trise = 10n
C9 10 2 1.5p Rpar=29k noiseless
A7 10 2 2 2 2 _Csel0 Csel0 2 SCHMITT vt=1.15 vh=350m trise=5n
C10 9 2 1.5p Rpar=29k noiseless
C11 13 2 1.5p
A8 9 2 2 2 2 _Csel1 Csel1 2 SCHMITT vt=1.15 vh=350m trise=5n
A9 2 13 2 2 2 _HiZ HiZ 2 SCHMITT vt=-1.15 vh=-350m trise=10n tfall=21n
R10 3 13 208k
A10 HiZ 2 2 2 2 _outcm outcm 2 SCHMITT vt=0.45 vh=350m trise = 20n
B1 2 vlogic I=1m*((1*v(Adj0_o,2)*v(Adj1_o,2))+(1.33*v(_Adj0_o,2)*v(Adj1_o,2))+(2*v(Adj0_o,2)*v(_Adj1_o,2))+(4*v(_Adj0_o,2)*v(_Adj1_o,2)))
C12 vlogic 2 1f Rpar=1k
A11 2 2 hiztran 2 N024 2 glitch_OMUX 2 DFLOP trise=3n tfall=1n
G2 2 glitch2 glitch_OMUX 2 1µ
C13 glitch2 2 1f Rpar=1Meg Rser=500k noiseless
R13 chsw 2 1k
A12 2 2 chsw 2 N026 2 swglitch 2 DFLOP trise=1n tfall=1n
A13 swglitch 2 2 2 2 2 N026 2 BUF trise=18n
R14 hiztran 2 1k
A14 glitch_OMUX 2 2 2 2 2 N024 2 BUF trise=10n
G3 2 MID1x swglitch 2 1µ
R17 MID1x 2 1Meg noiseless
R18 chsw1 2 1k
A15 2 2 chsw1 2 N029 2 N028 2 DFLOP trise=1n tfall=1n
A16 N028 2 2 2 2 2 N029 2 BUF trise=1u tfall=1n
G4 2 MID1y N028 2 1µ
R19 MID1y 2 1Meg noiseless
A17 _Csel0 2 _Csel1 2 2 N012 CH1_ON 2 AND trise=1n
A18 Csel0 2 _Csel1 2 2 N015 CH2_ON 2 AND trise=1n
A19 _Csel0 2 Csel1 2 2 N013 CH3_ON 2 AND trise=1n
A20 Csel0 2 Csel1 2 2 N016 CH4_ON 2 AND trise=1n
R20 5x1 4 2.72k noiseless
C14 N001 4 1.03p
C15 3 N001 6p Rser=15 Rpar=19.5 noiseless
G5 2 X1 3 N001 1m
C16 X1 2 12f Rpar=30.3k noiseless
A21 2 N002 PowOK 2 2 2 N001 2 OTA g=28m asym ref=-79.1m isource=1u isink=-4.4m in=0p/(1+freq/300Meg) vlow=0 vhigh=1e308
G6 2 N002 Vref1 4 1m
C17 N002 2 30f Rpar=1k noiseless
C18 4 2 400f Rser=1.75k Rpar=1Meg noiseless
D1 4 2 Din
C19 Vref1 2 1p Rpar=1K noiseless
B2 2 Vref1 I=0.75m*dnlim(uplim(.8*(V(3,2)-.8),.25,100m)+uplim(.5*(V(3,2)-1),.75,10m),0,.1)+uplim(dnlim(30u*V(3,2),0,1u),50u,1u)
A22 2 N001 2 2 2 2 2 2 OTA in=9.15p*1
A23 2 4 2 2 2 2 2 2 OTA in=0p/dnlim((freq/1e6)**1.12,.5,.1) +377f*(1+freq/80Meg)+1.05p
D2 2 N003 DSUB
R22 4 N003 10 noiseless
C20 Inode1 2 10p Rpar=100 noiseless
G7 2 Inode1 4 N003 100m
I5 Inode1 2 10µ
C21 N003 2 10f
B4 4 2 I=-dnlim(1m*V(Inode1,2),0,5u)
B6 3 5x1 I=(.5+.5*tanh((V(3,5x1)/10m)))*(348.7u+1.2613m*V(CH1_ON,2)-1m*V(X1,2))*V(PowOK,2)
B7 2 MID1 I=2.36m*(V(5x1,2)-0.79833615)*(.5+.5*tanh((V(CH1_ON,2)-.5)/10m))*(10m+0.99*(1-V(MID1x,2)*V(_PWRMD_OUT,2)-V(MID1y,2)*V(PWRMD_OUT,2)))*(10m+0.99*(1-V(glitch_OMUX,2)))
C22 5x1 2 10f Rpar=2k noiseless
B8 2 4 I=uplim(v(8,2)/9k, 270u, 10u)
R23 5x2 5 2.72k noiseless
C23 N005 5 1.03p
C24 3 N005 6p Rser=15 Rpar=19.5 noiseless
G8 2 X2 3 N005 1m
C25 X2 2 12f Rpar=30.3k noiseless
A24 2 N006 PowOK 2 2 2 N005 2 OTA g=28m asym ref=-79.1m isource=1u isink=-4.4m in=0p/(1+freq/300Meg) vlow=0 vhigh=1e308
G9 2 N006 Vref1 5 1m
C26 N006 2 30f Rpar=1k noiseless
C27 5 2 400f Rser=1.75k Rpar=1Meg noiseless
D3 5 2 Din
A25 2 N005 2 2 2 2 2 2 OTA in=9.15p*1
A26 2 5 2 2 2 2 2 2 OTA in=0p/dnlim((freq/1e6)**1.12,.5,.1) +377f*(1+freq/80Meg)+1.05p
D4 2 N007 DSUB
R24 5 N007 10 noiseless
C30 Inode2 2 10p Rpar=100 noiseless
G10 2 Inode2 5 N007 100m
I6 Inode2 2 10µ
C31 N007 2 10f
B10 5 2 I=-dnlim(1m*V(Inode2,2),0,5u)
B11 3 5x2 I=(.5+.5*tanh((V(3,5x2)/10m)))*(348.7u+1.2613m*V(CH2_ON,2)-1m*V(X2,2))*V(PowOK,2)
B13 2 MID1 I=2.36m*(V(5x2,2)-0.79833615)*(.5+.5*tanh((V(CH2_ON,2)-.5)/10m))*(10m+0.99*(1-V(MID1x,2)*V(_PWRMD_OUT,2)-V(MID1y,2)*V(PWRMD_OUT,2)))*(10m+0.99*(1-V(glitch_OMUX,2)))
C32 5x2 2 10f Rpar=2k noiseless
B14 2 5 I=uplim(v(8,2)/9k, 270u, 10u)
R25 5x3 6 2.72k noiseless
C29 N017 6 1.03p
C33 3 N017 6p Rser=15 Rpar=19.5 noiseless
G12 2 X3 3 N017 1m
C34 X3 2 12f Rpar=30.3k noiseless
A27 2 N018 PowOK 2 2 2 N017 2 OTA g=28m asym ref=-79.1m isource=1u isink=-4.4m in=0p/(1+freq/300Meg) vlow=0 vhigh=1e308
G13 2 N018 Vref1 6 1m
C35 N018 2 30f Rpar=1k noiseless
C36 6 2 400f Rser=1.75k Rpar=1Meg noiseless
D5 6 2 Din
A28 2 N017 2 2 2 2 2 2 OTA in=9.15p*1
A29 2 6 2 2 2 2 2 2 OTA in=0p/dnlim((freq/1e6)**1.12,.5,.1) +377f*(1+freq/80Meg)+1.05p
D7 2 N021 DSUB
R26 6 N021 10 noiseless
C37 Inode3 2 10p Rpar=100 noiseless
G16 2 Inode3 6 N021 100m
I7 Inode3 2 10µ
C38 N021 2 10f
B9 6 2 I=-dnlim(1m*V(Inode3,2),0,5u)
B15 3 5x3 I=(.5+.5*tanh((V(3,5x3)/10m)))*(348.7u+1.2613m*V(CH3_ON,2)-1m*V(X3,2))*V(PowOK,2)
C39 5x3 2 10f Rpar=2k noiseless
B20 2 6 I=uplim(v(8,2)/9k, 270u, 10u)
B21 2 MID1 I=2.36m*(V(5x3,2)-0.79833615)*(.5+.5*tanh((V(CH3_ON,2)-.5)/10m))*(10m+0.99*(1-V(MID1x,2)*V(_PWRMD_OUT,2)-V(MID1y,2)*V(PWRMD_OUT,2)))*(10m+0.99*(1-V(glitch_OMUX,2)))
B22 2 MID1 I=2.36m*(V(5x4,2)-0.79833615)*(.5+.5*tanh((V(CH4_ON,2)-.5)/10m))*(10m+0.99*(1-V(MID1x,2)*V(_PWRMD_OUT,2)-V(MID1y,2)*V(PWRMD_OUT,2)))*(10m+0.99*(1-V(glitch_OMUX,2)))
R27 5x4 7 2.72k noiseless
C40 N023 7 1.03p
C46 3 N023 6p Rser=15 Rpar=19.5 noiseless
G17 2 X4 3 N023 1m
C47 X4 2 12f Rpar=30.3k noiseless
A30 2 N025 PowOK 2 2 2 N023 2 OTA g=28m asym ref=-79.1m isource=1u isink=-4.4m in=0p/(1+freq/300Meg) vlow=0 vhigh=1e308
G18 2 N025 Vref1 7 1m
C48 N025 2 30f Rpar=1k noiseless
C49 7 2 400f Rser=1.75k Rpar=1Meg noiseless
D12 7 2 Din
A31 2 N023 2 2 2 2 2 2 OTA in=9.15p*1
A32 2 7 2 2 2 2 2 2 OTA in=0p/dnlim((freq/1e6)**1.12,.5,.1) +377f*(1+freq/80Meg)+1.05p
D13 2 N027 DSUB
R28 7 N027 10 noiseless
C56 Inode4 2 10p Rpar=100 noiseless
G20 2 Inode4 7 N027 100m
I8 Inode4 2 10µ
C58 N027 2 10f
B24 7 2 I=-dnlim(1m*V(Inode4,2),0,5u)
B25 3 5x4 I=(.5+.5*tanh((V(3,5x4)/10m)))*(348.7u+1.2613m*V(CH4_ON,2)-1m*V(X4,2))*V(PowOK,2)
C59 5x4 2 10f Rpar=2k noiseless
B29 2 7 I=uplim(v(8,2)/9k, 270u, 10u)
C64 2 _PWRMD_OUT 1f Rpar=1G
C65 2 PWRMD_OUT 1f Rpar=1G
C66 2 _Adj1_o 1f Rpar=1G
C67 2 Adj1_o 1f Rpar=1G
C63 2 _Adj0_o 1f Rpar=1G
C70 2 Adj0_o 1f Rpar=1G
C71 2 _outcm 1f Rpar=1G
C72 2 outcm 1f Rpar=1G
C73 2 _HiZ 1f Rpar=1G
C74 2 _Csel1 1f Rpar=1G
C75 2 Csel1 1f Rpar=1G
C76 N011 _Csel0 1f Rpar=1G
C77 2 Csel0 1f Rpar=1G
C78 2 N012 1f Rpar=1G
C79 2 N015 1f Rpar=1G
C80 2 N016 1f Rpar=1G
C81 2 N013 1f Rpar=1G
C82 2 _HILimit 1f Rpar=1G
C83 2 HILimit 1f Rpar=1G
C84 2 _HIGood 1f Rpar=1G
C85 2 HIGood 1f Rpar=1G
C86 2 _TILT0 1f Rpar=1G
C87 2 TILT0 1f Rpar=1G
C88 2 _OBCLMP 1f Rpar=1G
C89 2 OBCLMP 1f Rpar=1G
C90 2 _OCLMP 1f Rpar=1G
C91 2 OCLMP 1f Rpar=1G
C92 2 N010 1f Rpar=1G
C93 2 COMPCLMP 1f Rpar=1G
R34 18 18x 1e-3
R35 19 19x 1e-3
S5 18x N020 _outcm 2 SOMUX
S6 N019 19x _outcm 2 SOMUX
.model Dleak0 D(ron=1k Roff=100k vfwd=4 epsilon=200m noiseless)
.model Dleak1 D(ron=100 Roff=1Meg vfwd=2 epsilon=200m ilimit=12m revilimit=100u noiseless)
.model DSAT D(Ron=100 Roff=1G vfwd=200m epsilon=200m noiseless)
.model SSAT1 SW(level=2 Ron=20, Roff=1Meg, vt=-.8 vh=-.1 ilimit=50m oneway epsilon=100m noiseless)
.model SSAT2 SW(level=2 Ron=100, Roff=1Meg, vt=-.8 vh=-.1 ilimit=5m noiseless)
.model SGLLin SW(Ron=100 Roff=10Meg vt=-225m vh=-30m noiseless)
.model DCLMP D(Roff=1G Ron=0.1 vfwd=2.3 epsilon=20m noiseless)
.model SOMUX SW(Ron=1e-3, Roff=1G, vt=0.5 vh=0.05 noiseless)
.model DI0 D(Ron=100 Roff=1Meg vfwd=0 epsilon=300m ilimit=420u noiseless)
.model SlimOL SW(Ron=100k Roff=400Meg vt=0 vh=-100m noiseless)
.model DCL D(Ron=1k Roff=1G vfwd=1.88 epsilon=20m noiseless)
.model DGLSPD D(Ron=100 Roff=10Meg vfwd=20m epsilon=50m noiseless)
.model SGLKILL SW(Ron=1 Roff=2Meg vt=-100m vh=-50m noiseless)
.model NOUT VDMOS(Vto=1 Kp=100m noiseless)
.machine
.state notrans 0
.state trans 1
.rule * notrans ( V(Csel0,2) > .9 | V(Csel0,2) < .1) &  ( V(Csel1,2) > .9 | V(Csel1,2) < .1 )
.rule notrans trans ( V(Csel0,2) < .8 & V(Csel0,2) > .2) |  ( V(Csel1,2) < .8 & V(Csel1,2) > .2)
.output (chsw,2) state
.endmachine
.machine
.state notrans 0
.state trans 1
.rule * notrans V(Hiz,2) > .9 | V(Hiz,2) < .1
.rule notrans trans V(Hiz,2) < .8 & V(Hiz,2) > .2
.output (hiztran,2) state
.endmachine
.machine
.state notrans 0
.state trans 1
.rule * notrans ( V(Csel0,2) > .9 | V(Csel0,2) < .1) &  ( V(Csel1,2) > .9 | V(Csel1,2) < .1 )&(V(PWRMD_OUT,2)>0.8)
.rule notrans trans ( V(Csel0,2) < .8 & V(Csel0,2) > .2) |  ( V(Csel1,2) < .8 & V(Csel1,2) > .2)&(V(PWRMD_OUT,2)>0.8)
.output (chsw1,2) state
.endmachine
.model Din D(Roff=1G Ron=8k vfwd=1.1 epsilon=70m noiseless)
.model DSUB D(IS=1e-16 TT=0n noiseless)
.ends LTC6563
